US07786142B2
Synthesis of 2-{4-[3-(9H-carbazol-4-yloxy)-2-hydroxypropyl]-piperazin-1-yl}-N-(5-methyl-1,3-thiazol-2-yl)acetamide
To a solution of 2-Bromo-N-(5-methyl-1,3-thiazol-2-yl)acetamide (prepared following the procedure described in step I, example 58, 0.2 g, 0.92 mmol) in THF (10 mL) was added NaI (0.06 g, 0.38 mmol), and the reaction mixture was stirred at room temperature for 1 hour, subsequently K2CO3 (0.05 g, 0.38 mmol) was added and stirring was continued further for 10-15 minutes. To the above solution, 1-(9H-carbazol-4-yloxy)-3-piperazin-1-ylpropan-2-ol (prepared following the procedure described in step 11, example 26, 0.25 g, 0.76 mmol) in THF (10 mL) was added dropwise, followed by TEA (0.32 mL, 2.3 mmol) and the above was stirred at room temperature for 3 hours. The reaction mixture was then concentrated and diluted with EtOAc (50 mL), washed with water and brine. The organic layer was dried over anhydrous Na2SO4, concentrated and purified by silica gel column chromatography, using dichloromethane/MeOH (9.2:0.8) to afford of the title compound as yellow colored hygroscopic solid (0.152 g, 42% yield). 1H NMR (400 MHz, CDCl3): δ 2.42 (s, 3H), 2.51-3.00 (m, 10H), 3.26 (s, 2H), 4.23-4.36 (m, 3H), 6.68 (d, 1H, J=8.0 Hz), 7.06-7.10 (m, 2H), 7.27-7.42 (m, 3H), 8.20 (s, 1H), 8.26 (d, 1H, J=8.0 Hz), and 10.16 (s, 1H). MS m/z: 480.1 (M+1).

reactant | 2-Bromo-N-(5-methyl-1,3-thiazol-2-yl)acetamide | BrCC(=O)NC=1SC(=CN1)C | C6H7BrN2OS
reactant | NaI | 0.38 mmol, 0.06 g | [Na+].[I-]
reactant | K2CO3 | 0.38 mmol, 0.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(9H-carbazol-4-yloxy)-3-piperazin-1-ylpropan-2-ol | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCNCC1)O | C19H23N3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{4-[3-(9H-carbazol-4-yloxy)-2-hydroxypropyl]-piperazin-1-yl}-N-(5-methyl-1,3-thiazol-2-yl)acetamide | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCN(CC1)CC(=O)NC=1SC(=CN1)C)O | C25H29N5O3S
